Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
syncope with complicated OSH course, transfer to ___ for 
evaluation and management of severe pulmonary hypertension
 
Major Surgical or Invasive Procedure:
Cardiac Arrest s/p CPR 
Pulmonary artery catheter placement 
 
History of Present Illness:
Ms. ___ is a ___ year old woman with medical history of 
limited systemic sclerosis who presented to ___ 
with syncope, found to have ___ (Cr 5.5 on admission, to 3.0 on 
discharge), anemia (s/p 2U pRBC), RV dilation and worsening 
pulmonary hypertension on TTE, transferred to ___ on ___ due 
to concern for renal crisis vs progressive pulmonary 
hypertension.  
 At ___, her hospital course was complicated by 
hypovolemic shock, requiring pressors as recently as ___. 
In this setting she was noted to be anemic to H/H of ___ with 
guaiac positive stool. She was transfused two units of PRBCs. 
She was also noted to have coagulopathy with INR up to 5.4 on 
admission. Infectious workup showed UTI which grew pan-sensitive 
E.coli, she was started on ceftriaxone.  
 It was thought that her syncopal episode and worsening 
shortness of breath were due to worsening pulmonary HTN in the 
setting of CREST. TTE showed a massively dilated right ventricle 
and severe pulmonary hypertension, though those records were not 
available at time of admission. She was transferred to ___ in 
consultation with her outpatient pulmonologist, ___ 
for evaluation and management of severe pulmonary hypertension.  

 On transfer from OSH: T: afebrile BP: 130/77 HR: 80 RR:18 O2 
Sat: 96%.  
 Upon arrival to the floor, VSS. The patient reports that she 
feels relatively well today. She states that her decline has 
been subtle, starting in the ___ months when she started to 
note progressive shortness of breath.  

 
Past Medical History:
Scleroderma diagnosed in ___, on 50mg prednisone daily
Neuropathy, ? vasculitis induced
Factor V leiden mutation, DVT in ___
Gastritis/esophagitis ___
Anemia requireing multiple transfusions
History of pleural effusion
History of pneumonia
 
Social History:
___
Family History:
Mother with rheumatoid arthritis. Siblings with Factor V leiden 
and both sisters have a history of DVTs.  
 
Physical Exam:
ADMISSION EXAM
==============
Vitals- 97.8 PO 139 / 87 L Lying 68 20 98 RA  
GENERAL: AOx3, NAD  
HEENT: notable for tight skin of the face and upper extremities  

CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD.  
LUNGS: fine crackles throughout.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. Tympanic to percussion. No 
organomegaly.  
EXTREMITIES: 1+ edema of the lower extremities bilaterally, no 
sign of atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
SKIN: tight skin  
NEUROLOGIC: CN2-12 intact. ___ strength throughout.  

DISCHARGE EXAM
==============
Vitals- 978.2 ___ 75-100 18 90-95%2LNC
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Lungs with coarse sounds/rhonchi R>L without crackles and 
with good air movement. 
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- Foley in place  
Ext- warm, well perfused, 2+ pulses, B/l ___ edema resolving   
Neuro- CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS
==============

___ 09:40PM   ___ PTT-43.9* ___
___ 09:40PM   PLT COUNT-101*
___ 09:40PM   WBC-3.9* RBC-2.82* HGB-9.1* HCT-26.9* MCV-95 
MCH-32.3* MCHC-33.8 RDW-14.9 RDWSD-52.6*
___ 09:40PM   ALBUMIN-3.3* CALCIUM-8.8 PHOSPHATE-2.6* 
MAGNESIUM-2.0
___ 09:40PM   cTropnT-0.01 ___
___ 09:40PM   ALT(SGPT)-<5 AST(SGOT)-16 LD(LDH)-174 ALK 
PHOS-76 TOT BILI-0.3
___ 09:40PM   GLUCOSE-101* UREA N-48* CREAT-2.5*# 
SODIUM-132* POTASSIUM-4.0 CHLORIDE-95* TOTAL CO2-21* ANION 
GAP-20

MICRO 
=====

DISCHARGE LABS
==============

STUDIES
=======

-TTE ___
The left atrium is normal in size. The estimated right atrial 
pressure is at least 15 mmHg. Left ventricular wall thicknesses 
and cavity size are normal. There is paradoxical septal motion. 
The remaining segments contract well, but are not hyperdynamic. 
The right ventricular cavity is mildly dilated with severe 
global free wall hypokinesis. [Intrinsic right ventricular 
systolic function is likely more depressed given the severity of 
tricuspid regurgitation.] There is abnormal septal 
motion/position consistent with right ventricular 
pressure/volume overload. The aortic valve leaflets (?#) appear 
structurally normal with good leaflet excursion. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. No mitral regurgitation is seen. Moderate [2+] 
tricuspid regurgitation is seen. There is an anterior space 
which most likely represents a prominent fat pad. 

IMPRESSION: Suboptimal image quality. Right ventricular cavity 
dilation with free wall hypokinesis and tricuspid regurgitation. 
This constellation of findings is c/w acute pulmonary embolism 
or other acute pulmonary process. 

Compared with the prior study (images reviewed) of ___ the 
findings are new.

There is moderate to severe regional left ventricular systolic 
dysfunction with septal dyskinesis and anterior and 
anterolateral wall hypokinesis. Overall left ventricular 
systolic function is moderately depressed (LVEF= ___. The 
right ventricular cavity is dilated with moderate global free 
wall hypokinesis. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. 
There is no pericardial effusion. 

IMPRESSION: Septal dyskinesis, anterior and anterolateral wall 
hypokinesis of the left ventricle with estimated EF ___. 
Right ventricular dilation and free wall hypokinesis with signs 
of volume and pressure overload.

-CTA ___
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Extensive diffuse airspace opacities throughout both lungs, 
right greater than left are new from ___, favoring 
flash pulmonary edema given rapid onset.  Pulmonary hemorrhage 
could also be considered. 

-TTE ___
No atrial septal defect is seen by 2D or color Doppler. The 
right ventricular cavity is mildly dilated with moderate global 
free wall hypokinesis. The number of aortic valve leaflets 
cannot be determined. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Moderate [2+] 
tricuspid regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. There is a trivial/physiologic 
pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad. 

IMPRESSION: Suboptimal image quality. Image quality too poor to 
interprete bubble study. Multiple attempts could not visualize 
with confidence LV cavity during bubble study to assess crossing 
of bubbles. 

Compared with the prior study (images reviewed) of ___, 
visualized findings are similar. LV function could not be assess 
on the current study. The distal RV contracts well in 
conjunction with septal dyssynchrony indirectly suggest 
significant RV afterload elevation. TR jet was of moderate 
quality.  

CT Chest ___
On review of the serial radiographs there has been interval 
resolution/improvement of the initial pulmonary opacification 
(___), which is again has worsened after the radiograph 
done ___ These findings are most compatible with an 
initial episode of pulmonary hemorrhage which has partially 
resolved with now a second episode of hemorrhage. In the 
differential diagnosis consider superimposed pulmonary infection 
and less likely an inflammatory condition (organizing pneumonia) 
secondary to initial insult. 
  
Right IJV Swan-Ganz catheter in situ with the tip in a 
peripheral position 40 mm distal to the mediastinal shadow. 

___ b/l Lower Extremity US:
1. Superficial thrombophlebitis in the right great saphenous 
vein. 
2. No DVT in the right thigh. 
3. Very limited study.  No DVT seen, although there was 
difficulty in 
compressing several sites on the left due to tenderness and 
edema.  The study could be repeated as needed if clinical 
suspicion persists. 

___ Unilateral LLE:
No evidence of deep venous thrombosis in the left lower 
extremity veins. 

___ 4:02 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___. ___ @ 1548 ON 
___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative). 

___
URINE CULTURE (Final ___: 
      YEAST.    >100,000 CFU/mL. 

==============
DISCHARGE LABS
==============

___ 05:16AM BLOOD WBC-6.2 RBC-2.56* Hgb-8.0* Hct-24.8* 
MCV-97 MCH-31.3 MCHC-32.3 RDW-16.8* RDWSD-57.7* Plt ___
___ 02:01AM BLOOD Neuts-63.2 Lymphs-16.7* Monos-10.9 
Eos-7.7* Baso-0.9 Im ___ AbsNeut-4.25 AbsLymp-1.12* 
AbsMono-0.73 AbsEos-0.52 AbsBaso-0.06
___ 05:16AM BLOOD Plt ___
___ 05:16AM BLOOD ___ PTT-33.1 ___
___ 05:59AM BLOOD Glucose-88 UreaN-11 Creat-1.0 Na-141 
K-3.7 Cl-99 HCO3-30 AnGap-16
___ 04:15AM BLOOD ALT-19 AST-33 AlkPhos-207* TotBili-0.9
___ 08:20PM BLOOD cTropnT-0.02*
___ 05:16AM BLOOD Calcium-9.3 Phos-4.3 Mg-1.6
___ 08:00AM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:00AM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 08:00AM URINE RBC-23* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-1 TransE-1
___ 08:00AM URINE CastHy-6*

 
Brief Hospital Course:
___ with hx CREST syndrome, HTN, vasculitis, neuropathy, DVT, 
Factor V leiden, on coumadin, originally presented to OSH 
following an episode of syncope with complicated hospital 
course, transferred to ___ on ___ for management of 
severe pulmonary hypertension. Hospital course notable for ICU 
transfer following PEA arrest, volume directed management of 
pulmonary hypertension with pulmonary, and persistent hypoxemia. 
Patient was transferred to floor after weaned down on O2 and off 
of pressors. She continued diuresis on the floor and continued 
to improve. She was discharged to rehab. 

ACUTE ISSUES:  
=============
# PEA Arrest. On the morning o ___, patient collapsed in bed. 
CODE BLUE called for PEA arrest. ROSC was obtained after ___ min 
of CPR and 1 round of epi. Etiology of cardiac arrest was 
thought likely secondary to worsening pulmonary hypertension and 
flash pulmonary edema. She was transferred to the unit for 
pressure support and aggressive diuresis. She was significantly 
improved on discharge.   

# Pulmonary HTN. After PEA arrest, repeat TTE demonstrated 
increased dilation of RV cavity with severe global free wall 
hypokinesis progressed from prior TTE. Pulmonary consult was 
obtained. She was started on epoprostenol, which was then 
weaned. She had PA catheter placed for directed therapy. She was 
started on Sidenafil, increased to 20mg TID. She did well with 
diuresis and was discharged on 20mg Sildenafil and daily PO 
Lasix.   

# Hypoxemia. Following PEA arrest, patient was persistently 
hypoxic requiring high flow nasal canuala. CTA was negative for 
PE but was concerning for flash pulm edema vs ?pulm hemorrhage. 
There was consideration of steroids to treat empiric for 
possible inflammatory process, but this was deferred given prior 
scleroderma renal crisis and high risk of recurrence. She was 
managed with BIPAP then transitioned to high flow nasal canula, 
which was eventually able to be weaned to nasal canula and 
transferred to the floor. Her respiratory status continued to 
improve with aggressive diuresis prior to discharge.  She had 
decreased ___ of NC on discharge. She will continue to need 
diuresis as tolerated and continued weaning of O2. 

# Shock: hypotensive post arrest initially requiring epinephrine 
drip. Epinephrine was changed to levophed and dobutamine after 
she developed cool lower extremities and there was concern for 
developing cyanosis. Hypotension likely cardiogenic due to right 
sided failure given no evidence of infection. Dobutamine was 
stopped but she intermittently required levophed throughout her 
ICU stay. With optimization of her pulmonary hypertension and 
volume status, she was weaned off of pressors and transferred to 
the floor. She did well from a BP stand point. She was 
hypotensive on ___ due to aggressive diuresis which improved 
with 500cc of oral water intake. BP had dropped to ___ and 
improved to 100s systolics. 

# ___: creatinine 2.9 on admission, down from 5s at OSH after 
blood and fluid resuscitation. She was then thought to be 
acutely volume overloaded. She was diuresed and creatnine had 
improved to 1.1 by time of discharge.

# Factor V Leiden-Heterogenous: Patient has a hx of DVT. CTA was 
obtained post arrest and was negative for PE. Repeat LENIs 
negative. Anticoagulation was initially held for question of a 
possible hemorrhage, however she remained stable and was 
re-started on anticoagulation with apixaban 5mg BID.    
  
# CREST syndrome: followed by rheumatology here. Seen by 
rheumatology, who recommended avoiding all steroids given high 
risk of recurrent scleroderma renal crisis. Patient reported 
that she has not taken steroids for more than ___ years. 
  
# Anemia: s/p 2 units PRBCs at OSH, per d/c summary HCt has 
remained stable. Multiple stool guaiacs have been positive. Iron 
studies consistent with anemia of chronic disease. The patient 
required 1u PRBCs during her stay and she responded 
appropriately. Her hemoglobin otherwise remained stable 
throughout hospital course. She will need outpatient follow up 
for her anemia. 

# UTI: pan-sensitive E.coli growing at OSH s/p 3 day course of 
CTX (___).  

# C-DIFF Diarrhea: Patient developed c-diff positive diarrhea. 
She was started on Vancomycin PO on ___. The vancomycin course 
was prolonged after a concern for a UTI on ___ with two days of 
ceftriaxone. Her diarrhea has improved. She will continue the PO 
vancomycin until ___.   

TRANSITIONAL ISSUES 
=================== 
- Consider workup for multiple guaiac positive stools and 
outpatient anemia work up
- Continue diuresis, given 80mg PO Lasix on ___, please give 
60mg daily starting on ___ and can recheck electrolytes on ___
- Patient had low blood pressures on ___ to systolics ___ from 
aggressive diuresis, Improved with 500 cc of PO water intake. 
Goal blood pressures can be 80-90s systolics with her pulmonary 
hypertension with sildenafil. 
- outpatient Echo and PFTs
- Patient will need outpatient follow with neurology for ? 
parkinsons and restarting her sinemet 
- NEW or CHANGED MEDICATIONS STARTED 
  - Apixiban 5mg BID, anticoagulation for factor-V leiden 
  - Furosemide 80mg PO QDAY, changed from furosemide 20mg PO 
Qday 
  - Sildenafil 20mg PO TID for pulmonary hypertension
  - PO vancomycin for c.diff.
- DISCONTINUED MEDICATIONS
  - Warfarin (replaced by Apixaban)  
- HOME MEDICATIONS HELD DURING HOSPITALIZATION
  - Carbidopa-Levodopa (___) 1 TAB PO TID. Held in setting of 
hypotension and orthostasis. Patient has been stable from a 
parkinsons stand point but if having worsening symptoms can 
consider restarting if BP tolerate
  - Valsartan 80 mg PO DAILY. Held in setting of hypotension and 
orthostasis.         
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 1 TAB PO TID 
2. Warfarin 1.5 mg PO ___ 
3. Warfarin 3 mg PO ___ 
4. Lidocaine 5% Patch 1 PTCH TD 2PT/WEEK 
5. Furosemide 20 mg PO DAILY 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Valsartan 80 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Gabapentin 300 mg PO BID 
11. LORazepam 0.5 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN dyspnea, wheezing 
 
3.  Apixaban 5 mg PO BID  
4.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone 2 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*10 Tablet Refills:*0 
5.  Pantoprazole 40 mg PO Q24H  
6.  Sildenafil 20 mg PO TID  
7.  TraZODone 12.5 mg PO QHS:PRN sleep  
8.  Vancomycin Oral Liquid ___ mg PO Q6H 
You will take this medication until ___  
9.  Furosemide 60 mg PO DAILY  
10.  Gabapentin 100 mg PO TID  
11.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
12.  FoLIC Acid 1 mg PO DAILY  
13.  Lidocaine 5% Patch 1 PTCH TD 2PT/WEEK  
14.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
15. HELD- Carbidopa-Levodopa (___) 1 TAB PO TID  This 
medication was held in the setting of your low blood pressure. 
Do not restart Carbidopa-Levodopa (___) until told to do so 
by your doctor
16. HELD- Valsartan 80 mg PO DAILY  This medication was held. Do 
not restart Valsartan until told by your doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
- Pulmonary Hypertension 
- Right-sided Heart Failure 
- Factor V ___ 

SECONDARY DIAGNOSIS: 
- Anemia of Chronic
- C-Diff diarrhea 
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you at ___! You were sent to 
___ from an outside hospital after you were found to have a 
condition called pulmonary hypertension. After you arrived to 
the hospital, your heart stopped and you were given CPR. You 
improved after you were given medicine for your pulmonary 
hypertension and a diuretic to help you remove extra fluid from 
your body. You were able to leave the ICU and go to the medical 
floor where we continued to give you medicine to help remove 
fluid from your lungs to help you breath. You significantly 
improved so you were able to be discharged to a rehab to help 
build up strength before going home.  

You were started on new medicine that is important for you to 
take. 
These medications are: 
  - Apixiban 5mg BID, anticoagulation for factor-V leiden 
  - Furosemide 80mg PO QDAY, changed from furosemide 20mg PO 
Qday 
  - Sildenafil 20mg PO TID for pulmonary hypertension  

You have follow-up appointments with the pulmonary doctors and 
the ___ doctors. Please see below for the appointment 
times and details. 

It was a pleasure caring for you during your stay at ___. 

Sincerely, 

Your ___ Team 
 
Followup Instructions:
___